US07423050B2
(iii) 1-H-indol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide dihydrochloride salt.
Add 2.0M HCl in diethylether (0.46 mL, 0.93 mmol) to a suspension of 1H-indol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide (free base) (0.16 g, 0.44 mmol) in diethylether (10 mL). After 2 hr. filter the reaction mixture and wash the solid with diethylether to afford the title compound as a yellow solid. Rf 0.29 (93:7:1 CHCl3/methanol/NH4OH); m.p. 200-218° C.; 1H NMR (CD3OD, complex mixture of rotamers) δ 8.38 and 8.49 (s, 1H), 8.46 (m, 1H), 8.08-8.10 and 8.18-8.29 (m, 2H), 7.61 and 7.72 (d, J=8 Hz, 1H), 7.52 (m, 1H), 7.26-7.32 (m, 2H), 4.01 (m, 1H), 3.19-3.68 (m, 3H), 2.97 (m, 1H), 2.82 and 2.94 (s, 3H), 2.28-2.32 (m, 2H), 1.68-2.02 (m, 2H); CIMS (Methane) m/z 363 [C21H22N4O2+H]+; HPLC (Method A) 96.7%, tR 16.4 min.; anal. calculated for C21H22N4O2.2.1HCl.1.5H2O: C, 54.12; H, 5.86; N, 12.02; Cl, 15.98. Found: C, 54.13; H, 6.03; N, 12.37; Cl, 15.71.

reactant | HCl | 2.0M | Cl | ClH
reactant | 1H-indol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide | 0.44 mmol, 0.16 g | N1C=C(C2=CC=CC=C12)C(=O)NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C21H22N4O2
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
solvent | diethylether | 0.93 mmol, 0.46 mL | C(C)OCC | C4H10O
product | 1-H-indol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide dihydrochloride salt | Cl.Cl.N1C=C(C2=CC=CC=C12)C(=O)NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | InChI=1S/C21H22N4O2.2ClH/c1-25-11-9-14(10-12-25)20(26)18-7-4-8-19(23-18)24-21(27)16-13-22-17-6-3-2-5-15(16)17;;/h2-8,13-14,22H,9-12H2,1H3,(H,23,24,27);2*1H
